US07064124B2
3-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoic acid
3-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-acetoxybenzoic acid (0.300 g, 0.663 mmol) was dissolved in a mixed solution of acetonitrile (9 ml) and water (3 ml) and after adding thereto CAN (0.909 g, 1.658 mmol) at room temperature, the solution was stirred at room temperature for 1 hour. The reaction solution was diluted with water and then extracted with ether. The extract was washed with water and then dried, and the solvent was removed by distillation. The residue was recrystallized from ether to obtain the titled compound (0.248 g, 0.662 mmol, 99%).

reactant | 3-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-acetoxybenzoic acid | 0.663 mmol, 0.300 g | COC=1C(=C(CC=2C(=C(C(=O)O)C=CC2)OC(C)=O)C(=C(C1OC)OC)OC)C | C21H24O8
reactant | CAN | 1.658 mmol, 0.909 g | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
solvent | acetonitrile | 9 ml | C(C)#N | C2H3N
solvent | water | 3 ml | O | H2O
product | 3-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoic acid | 0.662 mmol, 0.248 g, 99% | COC=1C(C(=C(C(C1OC)=O)CC=1C(=C(C(=O)O)C=CC1)OC(C)=O)C)=O | C19H18O8
